US09120749B2
1-(6-bromo-4-((4-((dimethylamino)methyl)phenyl)amino)quinolin-3-yl)ethanone
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (500 mg, 1.76 mmol) was reacted with 4-((dimethylamino)methyl)aniline hydrochloride (479 mg, 2.56 mmol) to afford the desired product (491 mg, 70%) as a yellow solid. ESI MS m/z 398 [C20H20BrN3O+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 1.76 mmol, 500 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | 4-((dimethylamino)methyl)aniline hydrochloride | 2.56 mmol, 479 mg | Cl.CN(C)CC1=CC=C(N)C=C1
product | 1-(6-bromo-4-((4-((dimethylamino)methyl)phenyl)amino)quinolin-3-yl)ethanone | 491 mg, 70% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC=C(C=C1)CN(C)C | C20H20BrN3O
